US04328155
To a solution of N-(1-cyclohexyl-3-pyrrolidinyl)-2-methoxy-5-aminobenzamide (1.0 g) in dry pyridine (5 ml), methanesulfonyl chloride (308 mg) is added with ice cooling, and the reaction mixture is stirred at room temperature for 20 minutes. The reaction mixture is worked up as in Example 1 to give N-(1-cyclohexyl-3-pyrrolidinyl)-2-methoxy-5-methanesulfonamidobenzamide (731 mg) as crystals melting at 170° to 171.5° C.

reactant | N-(1-cyclohexyl-3-pyrrolidinyl)-2-methoxy-5-aminobenzamide | 1.0 g | C1(CCCCC1)N1CC(CC1)NC(C1=C(C=CC(=C1)N)OC)=O | C18H27N3O2
reactant | methanesulfonyl chloride | 308 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-(1-cyclohexyl-3-pyrrolidinyl)-2-methoxy-5-methanesulfonamidobenzamide | 731 mg | C1(CCCCC1)N1CC(CC1)NC(C1=C(C=CC(=C1)NS(=O)(=O)C)OC)=O | C19H29N3O4S
